US07531482B2
2,2-Dimethylpropionic acid N′-(6-{4-[2-(5-chlorothieno[2,3-d]pyrimidin-4-ylamino)ethyl]phenoxy}pyridine-2-yl)-hydrazide
To a solution of 4-{2-[(5-chlorothieno[2,3-d]pyrimidin-4-yl)amino]ethyl}phenol (0.152 g, 0.5 mmol) and 5-(tert-butyl)-3-(6-fluoropyridin-2-yl)-3H-[1,3,4]oxadiazol-2-one (0.119 g, 0.5 mmol) in anhydrous DMF (4 mL) was added 60 percent sodium hydride in mineral oil (30 mg, 0.75 mmol) portionwise. The mixture was then stirred at 100° C. overnight. After cooling the reaction was quenched with methanol. The solvent was removed in vacuo and the residue was triturated in CH2Cl2 and water. The organic phase was separated, dried over anhydrous Na2SO4, filtered, concentrated, and purified on preparative HPLC to give the decarboxylated product as a brownish foam, 16 mg, 0.03 mmol, 6.5 percent yield.

reactant | 4-{2-[(5-chlorothieno[2,3-d]pyrimidin-4-yl)amino]ethyl}phenol | 0.5 mmol, 0.152 g | ClC1=CSC=2N=CN=C(C21)NCCC2=CC=C(C=C2)O | C14H12ClN3OS
reactant | 5-(tert-butyl)-3-(6-fluoropyridin-2-yl)-3H-[1,3,4]oxadiazol-2-one | 0.5 mmol, 0.119 g | C(C)(C)(C)C1=NN(C(O1)=O)C1=NC(=CC=C1)F | C11H12FN3O2
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2,2-Dimethylpropionic acid N′-(6-{4-[2-(5-chlorothieno[2,3-d]pyrimidin-4-ylamino)ethyl]phenoxy}pyridine-2-yl)-hydrazide | 6.5 percent yield | ClC1=CSC=2N=CN=C(C21)NCCC2=CC=C(OC1=CC=CC(=N1)NNC(C(C)(C)C)=O)C=C2 | C24H25ClN6O2S
